US06667316B1
N-{2-[1-(3-Cyclopentyloxy-4-methoxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide
A stirred mixture of 4-amino-4-(3-cyclopentyloxy-4-methoxyphenyl)butan-2-ol hydrochloride(1.20 g, 3.80 mmol), 3-acetamidophthalic anhydride (0.78 g, 3.80 mmol) and triethylamine (0.38 g, 3.80 mmol) in DMF (15 mL) was heated at 80-90° C. for 7 hours. The mixture was allowed to cool to room temperature and poured into water (80 mL). The resulting mixture was extracted with EtOAC (3×30 mL). The combined ethyl acetate extracts were washed with water (30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (Silica gel, methylene chloride: EtOAC 8:2) to give N-{2-1-(3-cyclopentyloxy-4-meth-oxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.3 g, 73%) as a white solid: 1H NMR (CDCl3) δ9.53 (s, 1H), 8.71 (d, J=8.4 Hz, 1H), 7.63 (t, J=7.7 Hz, 1H), 7.48 (d, J=7.3 Hz, 1H), 7.08-7.03 (m, 2H), 6.82 (d, J=8.2 Hz, 1H), 5.57-5.51 (dd, J=4.2, 11.6 Hz, 1H), 4.78 (m, 1H), 3.81 (s, 3H), 3.77-3.74 (m, 1H), 2.91-2.81 (m, 1H), 2.25 (s, 3H), 2.13-1.60 (m, 10H), 1.29 (d, J=6.1 Hz, 3H); 13C NMR (CDCl3) δ170.38, 169.21, 168.06, 149.70, 147.50, 137.33, 135.84, 131.54, 131.20, 124.71, 120.28, 117.93, 115.31, 115.07, 111.55, 80.45, 64.89, 55.97, 51.35, 39.92, 32.73, 24.91, 24.04, 23.76, 21.02.

reactant | 4-amino-4-(3-cyclopentyloxy-4-methoxyphenyl)butan-2-ol hydrochloride | 3.80 mmol, 1.20 g | Cl.NC(CC(C)O)C1=CC(=C(C=C1)OC)OC1CCCC1
reactant | 3-acetamidophthalic anhydride | 3.80 mmol, 0.78 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
reactant | triethylamine | 3.80 mmol, 0.38 g | C(C)N(CC)CC | C6H15N
reactant | water | 80 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-{2-[1-(3-Cyclopentyloxy-4-methoxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(C)O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C26H30N2O6
